*  Generated for: HSPICE
*  Design library name: Fourbit
*  Design cell name: testbenchschematic
*  Design view name: schematic
.option search='/opt/synopsys-2019/app/SAED/SAED_PDK90nm/hspice'


.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1

.option WDF=1
.temp 25
.lib 'SAED90nm.lib' TT_12
*Custom Compiler Version P-2019.06-SP1-7
*Mon May 22 15:35:02 2023

.global gnd! vdd!
********************************************************************************
* Library          : Adder
* Cell             : AND
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt and a b out
m5 out net24 gnd! gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m1 net24 b net7 gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m0 net7 a gnd! gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m4 out net24 vdd! vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
m3 net24 a vdd! vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
m2 net24 b vdd! vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
.ends and

********************************************************************************
* Library          : Adder
* Cell             : XOR
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt xor a b out
m5 out net2 gnd! gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m1 b a net2 gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m0 a b net2 gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m4 out net2 vdd! vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
m3 net2 b net1 vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
m2 net1 a vdd! vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
.ends xor

********************************************************************************
* Library          : Fourbit
* Cell             : halfadd
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt halfadd c s x y
xi0 x y c and
xi1 x y s xor
.ends halfadd

********************************************************************************
* Library          : Adder
* Cell             : OR
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt or a b out
m5 out net16 gnd! gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m1 net16 b gnd! gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m0 net16 a gnd! gnd! n12 w=0.4u l=0.1u nf=1.0 m=1
m4 out net16 vdd! vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
m3 net23 a vdd! vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
m2 net16 b net23 vdd! p12 w=1.2u l=0.1u nf=1.0 m=1
.ends or

********************************************************************************
* Library          : Fourbit
* Cell             : fulladd
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt fulladd ai bi ci ci1 si
xi1 net11 si net7 ci halfadd
xi0 net10 net7 ai bi halfadd
xi2 net10 net11 ci1 or
.ends fulladd

********************************************************************************
* Library          : Fourbit
* Cell             : rippleadd
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt rippleadd a0 a1 a2 a3 b0 b1 b2 b3 cin cout s0 s1 s2 s3
xi7 a3 b3 net40 cout s3 fulladd
xi6 a2 b2 net35 net40 s2 fulladd
xi5 a1 b1 net30 net35 s1 fulladd
xi4 a0 b0 cin net30 s0 fulladd
.ends rippleadd

********************************************************************************
* Library          : Fourbit
* Cell             : testbenchschematic
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 a0 a1 a2 a3 b0 b1 b2 b3 cin cout s0 s1 s2 s3 rippleadd
v26 b3 gnd! dc=0 pat ( 1 0 0 10n 10n 200n b01 )
v25 b2 gnd! dc=0 pat ( 1 0 0 10n 10n 200n b10 )
v24 b1 gnd! dc=0 pat ( 1 0 0 10n 10n 200n b11 )
v23 b0 gnd! dc=0 pat ( 1 0 0 10n 10n 200n b01 )
v22 a3 gnd! dc=0 pat ( 1 0 0 10n 10n 200n b01 )
v21 a2 gnd! dc=0 pat ( 1 0 0 10n 10n 200n b10 )
v20 a1 gnd! dc=0 pat ( 1 0 0 10n 10n 200n b01 )
v19 a0 gnd! dc=0 pat ( 1 0 0 10n 10n 200n b10 )
v14 cin gnd! dc=0 pat ( 1 0 0 10n 10n 200n b00 )
c13 cout gnd! c=2p
c12 s3 gnd! c=2p
c11 s2 gnd! c=2p
c10 s1 gnd! c=2p
c9 s0 gnd! c=2p
v16 vdd! gnd! dc=1.2









.tran 10n 400n start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(a0) v(a1) v(a2) v(a3) v(b0) v(b1) v(b2) v(b3) v(cin) v(cout) v(s0)
+ v(s1) v(s2) v(s3)




.end
